US07417169B2
Methyl 4-benzyloxy-2-ethoxybenzoate
Ethyl iodide (0.137 mL) was added to a suspension of methyl 4-benzyloxy-2-hydroxybenzoate (0.296 g) and potassium carbonate (0.317 g) in N,N-dimethylformamide (2.9 mL) at room temperature with stirring. The mixture was stirred at that temperature for 1.6 hrs and at 50° C. for 1.4 hrs. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (0.293 g).

reactant | Ethyl iodide | 0.137 mL | C(C)I | C2H5I
reactant | methyl 4-benzyloxy-2-hydroxybenzoate | 0.296 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)O | C15H14O4
reactant | potassium carbonate | 0.317 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2.9 mL | CN(C=O)C | C3H7NO
product | Methyl 4-benzyloxy-2-ethoxybenzoate | 0.293 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)OCC | C17H18O4
